US04532248
Diethyl 2-acetylamino-4,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate
8 g (0.03 mol) of diethyl 2-amino-4,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate in 100 ml of acetic anhydride were boiled under reflux for 4 hours. The mixture was concentrated to dryness in vacuo, and the residue was recrystallized from ethanol. Yield: 5.4 g (58% of theory) of m.p.: 105° C.

reactant | diethyl 2-amino-4,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate | 0.03 mol, 8 g | NC=1NC(=C(C(C1C(=O)OCC)C)C(=O)OCC)C | C13H20N2O4
reactant | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
product | Diethyl 2-acetylamino-4,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate | C(C)(=O)NC=1NC(=C(C(C1C(=O)OCC)C)C(=O)OCC)C | C15H22N2O5
